US09023873B2
4.8: N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-N-methyl-3-nitro-benzamide
To a solution of N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-3-nitro-benzamide (obtained in a similar way as example I 4.1) (0.482 g, 0.806 mmole) in N,N-dimethylformamide (5 ml), magnetically stirred under argon atmosphere, at 25° C., in a round-bottomed flask, was added sodium hydride (60% suspension in oil, 0.039 g, 0.967 mmole). After the gas evolution had ceased, iodomethane (0.060 ml, 0.137 g, 0.967 mmole) was added and the mixture was stirred for 15 hours. The reaction mixture was quenched by addition of two drops of methanol, then concentrated under reduced pressure on a rotatory evaporator. The residue was placed on a silica gel column. Elution with a mixture of 15% ethyl acetate and 85% cyclohexane allowed the isolation of the title compound in quantitative yield (LC-MS analysis (method 6 described after the tables): retention time 1.22 min, observed M+H+ ion 611).

reactant | N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-3-nitro-benzamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)NC(C1=C(C(=CC=C1)[N+](=O)[O-])OC)=O | C17H9Br2F7N2O4
reactant | sodium hydride | 0.967 mmole, 0.039 g | [H-].[Na+]
reactant | iodomethane | 0.967 mmole, 0.060 ml, 0.137 g | IC | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-N-methyl-3-nitro-benzamide | quantitative yield | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)N(C(C1=C(C(=CC=C1)[N+](=O)[O-])OC)=O)C | C18H11Br2F7N2O4
